US08017607B2
To a solution of rac-4-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-benzoic acid methyl ester (130.0 mg, 0.222 mmol) in EtOH (1.0 mL) and THF (1.0 mL) was added NaBH4 (36.0 mg, 0.96 mmol) and LiCl (40.7 mg, 0.96 mmol). The reaction mixture was stirred at rt overnight. Work up and the residue was purified by RP-HPLC to give rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-1-(4-hydroxymethyl-benzoyl)-pyrrolidine-3-carbonitrile (5.7 mg, 4.6%). HRMS (ES+) m/z Calcd for C30H28Cl2F2N2O2+H [(M+H): 557.1568; Found: 557.1569.

reactant | rac-4-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-benzoic acid methyl ester | 0.222 mmol, 130.0 mg | COC(C1=CC=C(C=C1)C(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C31H28Cl2F2N2O3
reactant | NaBH4 | 0.96 mmol, 36.0 mg | [BH4-].[Na+]
reactant | LiCl | 0.96 mmol, 40.7 mg | [Li+].[Cl-]
solvent | EtOH | 1.0 mL | CCO | C2H6O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-1-(4-hydroxymethyl-benzoyl)-pyrrolidine-3-carbonitrile | 5.7 mg, 4.6% | ClC=1C(=C(C=CC1)C1N(CC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(C1=CC=C(C=C1)CO)=O)F | C30H28Cl2F2N2O2
